US07220856B2
Preparation of Ethyl 4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-7-chloroquinoline-2-carboxylate
Ethyl 7-chloro-4-quinolone-2-carboxylate (1.0 g, 4 mmol) is stirred with sodium hydride (0.144 g, 6 mmol) in DMF (50 mL) for 1 h at 40° C. N-Phenyl (trifluoromethylsulfon)imide (2.0 g, 5.6 mmol) is added and, after an hour, 1-tert-butoxycarbonylpiperazine (3.0 g, 6 mmol). The reaction mixture is stirred at 50° C. for 15 h, concentrated, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and concentrated. The residue is purified by column chromatography with CH2Cl2-MeOH yielding the title product as a colorless solid.

reactant | Ethyl 7-chloro-4-quinolone-2-carboxylate | 4 mmol, 1.0 g | ClC1=CC=C2C(CC(=NC2=C1)C(=O)OCC)=O | C12H10ClNO3
reactant | sodium hydride | 6 mmol, 0.144 g | [H-].[Na+]
reactant | 1-tert-butoxycarbonylpiperazine | 6 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Ethyl 4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-7-chloroquinoline-2-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)C(=O)OCC | C21H26ClN3O4
